US07696216B2
1-Isopropyl-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazoline-2-thione
A suspension of 50 mg (0.139 mmol) 1-isopropyl-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazoline-2-one and 56 mg (0.139 mmol) Lawesson's reagent in 2 ml benzene is heated to 70° C. overnight. The reaction mixture is extracted (water/di-chloromethane) and the organic layer is dried and evaporated.

reactant | 1-isopropyl-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazoline-2-one | 0.139 mmol, 50 mg | C(C)(C)N1C(N=C(C2=CC(=CC=C12)OCC#C)C1=CC=C(C=C1)C(C)C)=O | C23H24N2O2
reactant | Lawesson's reagent | 0.139 mmol, 56 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 1-Isopropyl-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazoline-2-thione | C(C)(C)N1C(N=C(C2=CC(=CC=C12)OCC#C)C1=CC=C(C=C1)C(C)C)=S | C23H24N2OS
